US04436748
A mixture of 9.5 g of 7-chloro-3-(2-fluorophenyl)-6-methoxybenzo[b]thiophene and 80 g of pyridine hydrochloride is heated at 190° C. for 7 hours, with stirring. Water (500 ml) is added to the cooled reaction mixture and the resulting suspension is extracted with ether (3 times). The combined etheral extracts are cooled with dilute hydrochloric acid, dried over anhydrous magnesium sulfate and evaporated to afford 8.9 g of 7-chloro-6-hydroxy-3-(2-fluorophenyl)benzo[b]thiophene.

reactant | 7-chloro-3-(2-fluorophenyl)-6-methoxybenzo[b]thiophene | 9.5 g | ClC1=C(C=CC2=C1SC=C2C2=C(C=CC=C2)F)OC | C15H10ClFOS
reactant | pyridine hydrochloride | 80 g | Cl.N1=CC=CC=C1
solvent | Water | 500 ml | O | H2O
product | 7-chloro-6-hydroxy-3-(2-fluorophenyl)benzo[b]thiophene | 8.9 g | ClC1=C(C=CC2=C1SC=C2C2=C(C=CC=C2)F)O | C14H8ClFOS
